2128-01-28 07:34:00 Physician Resident Progress Note
Chief Complaint: Rash/Respiratory failure and hemorrhage/renal failure.
   24 Hour Events:
 PICC LINE - START [**2128-1-27**] 08:05 AM
 BLOOD CULTURED - At [**2128-1-27**] 09:30 AM
   two sets, one from each port of picc
 INVASIVE VENTILATION - START [**2128-1-27**] 10:40 AM
 EKG - At [**2128-1-27**] 12:15 PM
 ARTERIAL LINE - START [**2128-1-27**] 12:30 PM
 DIALYSIS CATHETER - START [**2128-1-27**] 01:05 PM
 BRONCHOSCOPY - At [**2128-1-27**] 01:25 PM
 TRANSTHORACIC ECHO - At [**2128-1-27**] 02:30 PM
   - HCT 27 -> 25.7 -> 24.4 (1U) -> 26 (1U) -> 27.5 -> 28
   - EKG: VPaced
   - Received Vit K IV
   - Renal: HD Line Placed, receiving CVVH now.
   - Rheum: 1. Would change steroids to solumedrol 1000 mg IV Daily for 3
   days 2. Stop allopurinol indefinitely. 3. Agree with transfusion
   medicine consult for possible plasmapheresis.  4. F/u with anti-GBM and
   ANCA. 5. Repeat echocardiogram (TEE) to evaluate for current cardiac
   status/function, vegetations and possible CHF. They would like to start
   Cytoxan if ID (given bacteremia) and Renal (i.e. If they agree with
   diagnosis) on board. Also recommend plasmaphoresis before Cytoxan.
   - Derm: Nothing
   - Intubated, Aline placed, Dialysis Catheter Placed.
   - Bronchoscopy: Diffuse Bleeding
   - ECHO:The left atrium is moderately dilated. Left ventricular wall
   thickness, cavity size and regional/global systolic function are normal
   (LVEF >55%). [Intrinsic left ventricular systolic function is likely
   more depressed given the severity of valvular regurgitation.] Right
   ventricular chamber size is normal. with borderline normal free wall
   function. There is abnormal septal motion/position consistent with
   right ventricular pressure/volume overload. A bileaflet aortic valve
   prosthesis is present. The transaortic gradient is normal for this
   prosthesis. No masses or vegetations are seen on the aortic valve, but
   cannot be fully excluded due to suboptimal image quality. Trace aortic
   regurgitation is seen. [The amount of regurgitation present is normal
   for this prosthetic aortic valve.] The mitral valve leaflets are
   moderately thickened. No masses or vegetations are seen on the mitral
   valve, but cannot be fully excluded due to suboptimal image quality. An
   eccentric, posteriorly directed jet of moderate (2+) mitral
   regurgitation is seen. No masses or vegetations are seen on the
   tricuspid valve, but cannot be fully excluded due to suboptimal image
   quality. Moderate [2+] tricuspid regurgitation is seen. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion. If clinically suggested, the absence of a
   vegetation by 2D echocardiography does not exclude endocarditis,
   especially on a bileaflet aortic valve. Compared with the prior study
   (images reviewed) of [**2128-1-8**], the severity of mitral and tricuspid
   regurgitation has increased. The right ventricular function may be
   slighlty less vigorous.
   - ID: Fine to change to Cefepime/Vancomycin. From Cefazolin.
   - Path: Nothing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-27**] 09:40 AM
   Cefazolin - [**2128-1-27**] 10:00 AM
   Cefipime - [**2128-1-27**] 01:10 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 200 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-27**] 09:40 AM
   Midazolam (Versed) - [**2128-1-27**] 01:00 PM
   Fentanyl - [**2128-1-27**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-28**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 75 (75 - 76) bpm
   BP: 95/50(67) {78/42(56) - 140/70(94)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 88.1 kg (admission): 85 kg
   Height: 68 Inch
           Total In:
                                                                  3,243 mL
                                                                  2,401 mL
   PO:
           TF:
   IVF:
                                                                  2,298 mL
                                                                  2,051 mL
   Blood products:
                                                                    945 mL
                                                                    350 mL
   Total out:
                                                                  2,598 mL
                                                                  3,069 mL
   Urine:
                                                                  1,140 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/40/125/23/0 (6 a.m.)
   Ve: 3.9 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General: Intubated, sedated, unresponsive, synchronus with AC this a.m.
   then later some desynchrony.
   Neck: supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Bilateral expiratory rhonchi and coarse crackles.
   CV: Regular normal S1 + S2, +mechanical click.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pitting LE edema.  Diffuse rash over trunk
   and extremities - macular nonblanching purpuric rash.
   Neuro: Heavily sedated.
   Labs / Radiology
   288 K/uL
   9.3 g/dL
   164 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.7 mEq/L
   61 mg/dL
   101 mEq/L
   138 mEq/L
   28.0 %
   6.0 K/uL
        [image002.jpg] Free Ca 1.05.
                             [**2128-1-27**]  11:51 AM
                             [**2128-1-27**]  01:11 PM
                             [**2128-1-27**]  03:27 PM
                             [**2128-1-27**]  03:51 PM
                             [**2128-1-27**]  08:15 PM
                             [**2128-1-28**]  12:00 AM
                             [**2128-1-28**]  12:20 AM
                             [**2128-1-28**]  03:28 AM
                             [**2128-1-28**]  06:00 AM
                             [**2128-1-28**]  06:06 AM
   WBC
   13.4
   9.9
   6.0
   Hct
   25.7
   24.4
   26.0
   27.5
   28.0
   Plt
   [**Telephone/Fax (3) 11372**]88
   Cr
   3.1
   2.6
   2.1
   TCO2
   24
   23
   23
   25
   Glucose
   155
   193
   203
   164
   Other labs: PT / PTT / INR:17.6/28.7/1.6, Fibrinogen:373 mg/dL, Lactic
   Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: BAL - no PMNs or bacteria seen on Gram
   stain.
   Imaging: Only line placement CXR today.
   Microbiology: No growth yet. C. difficile negative.
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   Concern for immune mediated unifying diagnosis, versus coagulopathy and
   AIN with leukoclastic dermatitis. One critical piece of information may
   be whether immune cells cluster at arterioles in skin (vasculitis) or
   around capillaries (AIN and leukoclastic dermatitis proper). This will
   have important implications for treatment. Anti-GBM antibody test will
   be back tomorrow night at earliest per lab/pathologist. Rheumatology
   feel that this likely represents vasculitis and would like to broaden
   treatment to include plasmaphoresis then Cytoxan therapy. This will
   likely depend on whether pathology and Renal also feel that this is a
   vasculitis, not just AIN with associated rash after nafcillin or
   allopurinol. Goodpasture
s unlikely in view of presentation. ANCA is
   negative, but this is the case in about 20% of Wegener
s cases. No
   dysmorphic reds in urine, but this can sometimes be the case. Possible
   other vasculidites, but IgG, IgM and IgA staining in skin were not
   remarkable.
   # Hypoxemic Respiratory Failure and Possible Vasculitis
   Given findings on CXR, CVP, clinical presentation and bronchoscopy,
   likely secondary to diffuse alveolar hemorrhage and fluid overload. ESR
   is elevated, there is a pupruic macular rash and renal failure, all
   concerning for vasculitis, although there are other possibilities. [**Doctor First Name 1205**]
   and ANCA are negative and anti-GBM is pending. If we seek a unifying
   diagnosis, may be that anti-GBM is negative given skin process.
   Variability in antibody responsible may account for this, and general
   approaches and pathology may eventually be most helpful. Renal biopsy
   is possible (see below). Presently conditions of each organ stabilized
   on high dose steroids, also suggestive. Rheumatology raised Cytoxan
   treatment and plasmaphoresis, but we will need to discuss this further
   with Renal and Pathology.
   - Maintain intubation for now given lesser chance of hemorrhage without
   cough and management of respiratory parameters.
   - Repeat bronchoscopy today to remove thrombus plugging and examine
   again.
   - Await anti-GBM
   - Discuss renal biopsy
   - Continue to appreciate input of Rheumatology and Renal
   - Continue Solu-medrol
   - Consider Cytoxan and plasmapheresis with d/w Renal and Rheumatology
   - Broad spectrum treatment for HAP
 cefepime and vancomycin
 stop
   cefazolin
   - Hold heparin, ASA
   # Hemoptysis and Coagulopathy
   Evidence, perhaps with purpuric rash, of coagulopathy, or potentially
   as a manifestation of vasculitis. For the former and possibly uremic
   platelets, anticoagulant therapy. In favor of the latter is unifying
   diagnosis and co-occurrence with renal disease and rash. See discussion
   above
   #. Acute on Chronic Renal Failure
   Cr 1.5 on presentation; up to 3.4, now 2.1 s/p CVVH. DDx includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below).  Now unclear if this is truly manifestation of systemic
   vasculitis or drug reaction. White cells and eosinophils in urine
   consistent with either, although more classic of AIN.
   - f/u renal recs, discuss thoughts re: renal manifestation as above.
   - Renally dose/CVVH dose meds.
   - Management as above, including IV Solu-medrol.
   - Possible renal biopsy tomorrow given that we are now holding
   anticoagulants
   # Leukoclastic Dermatitis
   Thought due to Nafcillin or allopurinol. Improving overall. See
   discussion above for relationship to unifying diagnosis.
   - Steroids as above.
   #. Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommend
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.  Now on Cefazolin since [**1-22**]
   instead of Vanc as better for MSSA with increased dosing [**1-25**].
   - Continue to repeat blood cultures.
   - Based on ID input will cover this and possible HAP with vancomycin
   and cefepime.
   # Atrial Fibrillation/Complete Heart Block
   History this admission of CHB (as well as torsades, thought due to
   FQs), now s/p screw-in pacemaker that is presently ventricularly
   pacing.
   - Hold heparin as above.
   - EP following - plan for 2 months of this pacer before likely
   permanent pacer.
   # Anemia
   Now with pulmonary hemorrhage likely. If diffuse vasculitis or actually
   secondary to primary coagulopathy then need to maintain suspicion for
   other sites of blood loss, including GIT
   - Recheck Hct Q8-Q12.
   - Guaiac stool
   - Consented for blood products
   - Maintain access and active type and screen
   - H2 blocker given some concern that PPI could be causing AIN.
   # CAD
   S/p CABG and with DES x3 in one graft. Given coagulopathy, is off
   anticoagulants. [**Month (only) 60**] be some concern for increased thrombosis risk in
   coming days, but have not choice given severity of presentation. We
   will need to revisit this when diagnosis is cleared and natural history
   of this presentation clearer.
   - Continue statin.
   - Hold ASA for now, knowing high risk with DES.  Minimize time off ASA.
   - Holding ACE in the setting of renal failure.
   - Holding BB for now.
   - No heparin for now
   #. s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF).
   - As above, holding heparin.
   - CT surgery consult if clinical condition worsens and concerning for
   abscess.
   - Consider TEE when stabilized and acute issues under control
 patient
   is actually receiving appropriate treatment now anyway.
   #. Hypertension.
   - Holding anti-HTNs in setting of bleeding as above.
   # FEN: No IVF, replete electrolytes, TF recs.
   # Prophylaxis: boots, H2R blocker.
   # Access: PICC, Temporary HD line
   # Communication: Communication: wife: [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**]
   (daughter and nurse) [**Telephone/Fax (1) 11366**] - need to verify who is HCP.
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-29 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Endocarditis, Renal Failure, DAH
   24 Hour Events:
   - Some desynchrony with vent today, so fent and Versed increased
   - Bronch today some bronchial plugging with thrombus.
   - Rheumatology want us to continue discussing cytoxan and would like us
   to touch base with ID about starting this in the context of
   bacteremia/endocarditis. They would also like to ses phoresis prior to
   starting Cytoxan. They would like everyone to agree on the diagnosis of
   vasculitis before this proceeds.
   - Started tube feeds
   - Finished second unit of PRCs in a.m.
   - Spoke to both daughters yesterday with Renal - they agreed upon
   course of action (steroids and biopsy then decide about phoresis and
   Cytoxan)
   - Renal biopsy on a.m. of [**1-29**] - we will round on him early and would
   like to have DDAVP, platelets, coags drawn.
   - Final Renal recs: One dose DDAVP and FFP to start at 9:30. Biopsy
   will be around 11:00 and Changed cefepime 2g q12 for CVVH.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-1-27**] 10:00 AM
   Vancomycin - [**2128-1-28**] 10:00 AM
   Cefipime - [**2128-1-28**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 200 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-28**] 08:00 AM
   Midazolam (Versed) - [**2128-1-29**] 03:25 AM
   Fentanyl - [**2128-1-29**] 03:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-29**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 75 (75 - 75) bpm
   BP: 106/54(73) {73/30(46) - 123/59(82)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 84 kg (admission): 85 kg
   Height: 68 Inch
    CVP: 16 (12 - 22)mmHg
   Total In:
                                                                  7,656 mL
                                                                  2,214 mL
   PO:
   TF:
                                                                     85 mL
                                                                    159 mL
   IVF:
                                                                  7,041 mL
                                                                  2,055 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                 10,809 mL
                                                                  2,842 mL
   Urine:
                                                                    664 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,153 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 550) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/47/90.[**Numeric Identifier 128**]/25/2
   Ve: 10 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General: Intubated, sedated, unresponsive, synchronus with AC this a.m.
   then later some desynchrony.
   Neck: supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Bilateral expiratory rhonchi and coarse crackles.
   CV: Regular normal S1 + S2, +mechanical click.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pitting LE edema.  Diffuse rash over trunk
   and extremities - macular nonblanching purpuric rash.
   Neuro: Heavily sedated.
   Labs / Radiology
   237 K/uL
   9.0 g/dL
   200 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   47 mg/dL
   99 mEq/L
   137 mEq/L
   26.7 %
   6.3 K/uL
        [image002.jpg]
                             [**2128-1-28**]  06:06 AM
                             [**2128-1-28**]  10:55 AM
                             [**2128-1-28**]  11:02 AM
                             [**2128-1-28**]  04:28 PM
                             [**2128-1-28**]  05:35 PM
                             [**2128-1-28**]  05:44 PM
                             [**2128-1-28**]  10:00 PM
                             [**2128-1-28**]  10:24 PM
                             [**2128-1-29**]  03:57 AM
                             [**2128-1-29**]  04:00 AM
   WBC
   4.4
   5.9
   6.3
   Hct
   26.3
   27.2
   27.2
   26.7
   Plt
   249
   250
   237
   Cr
   1.9
   1.9
   1.8
   TCO2
   25
   28
   28
   29
   29
   30
   Glucose
   [**Telephone/Fax (3) 11377**]93
   200
   Other labs: PT / PTT / INR:15.7/26.4/1.4, ALT / AST:[**2-4**], Alk Phos / T
   Bili:104/1.7, Differential-Neuts:92.3 %, Lymph:6.0 %, Mono:1.6 %,
   Eos:0.1 %, Fibrinogen:407 mg/dL, Lactic Acid:0.8 mmol/L, LDH:333 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: Chest Xray ([**1-27**]): Pending
   Microbiology: Sputum:
      GRAM STAIN (Final [**2128-1-27**]):
         [**11-8**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
   BAL:
      GRAM STAIN (Final [**2128-1-27**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   Blood ([**1-27**]): Pending
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   Concern for immune mediated unifying diagnosis, versus coagulopathy and
   AIN with leukoclastic dermatitis. One critical piece of information may
   be whether immune cells cluster at arterioles in skin (vasculitis) or
   around capillaries (AIN and leukoclastic dermatitis proper). This will
   have important implications for treatment. Anti-GBM antibody test will
   be back tomorrow night at earliest per lab/pathologist. Rheumatology
   feel that this likely represents vasculitis and would like to broaden
   treatment to include plasmaphoresis then Cytoxan therapy. This will
   likely depend on whether pathology and Renal also feel that this is a
   vasculitis, not just AIN with associated rash after nafcillin or
   allopurinol. Goodpasture
s unlikely in view of presentation. ANCA is
   negative, but this is the case in about 20% of Wegener
s cases. No
   dysmorphic reds in urine, but this can sometimes be the case. Possible
   other vasculidites, but IgG, IgM and IgA staining in skin were not
   remarkable.
   # Hypoxemic Respiratory Failure and Possible Vasculitis
   Given findings on CXR, CVP, clinical presentation and bronchoscopy,
   likely secondary to diffuse alveolar hemorrhage and fluid overload. ESR
   is elevated, there is a pupruic macular rash and renal failure, all
   concerning for vasculitis, although there are other possibilities. [**Doctor First Name 1205**]
   and ANCA are negative and anti-GBM is pending. If we seek a unifying
   diagnosis, may be that anti-GBM is negative given skin process.
   Variability in antibody responsible may account for this, and general
   approaches and pathology may eventually be most helpful. Renal biopsy
   is possible (see below). Presently conditions of each organ stabilized
   on high dose steroids, also suggestive. Rheumatology raised Cytoxan
   treatment and plasmaphoresis, but we will need to discuss this further
   with Renal and Pathology.
   - Maintain intubation for now given lesser chance of hemorrhage without
   cough and management of respiratory parameters.
   - Repeat bronchoscopy today to remove thrombus plugging and examine
   again.
   - Await anti-GBM
   - Discuss renal biopsy
   - Continue to appreciate input of Rheumatology and Renal
   - Continue Solu-medrol
   - Consider Cytoxan and plasmapheresis with d/w Renal and Rheumatology
   - Broad spectrum treatment for HAP
 cefepime and vancomycin
 stop
   cefazolin
   - Hold heparin, ASA
   # Hemoptysis and Coagulopathy
   Evidence, perhaps with purpuric rash, of coagulopathy, or potentially
   as a manifestation of vasculitis. For the former and possibly uremic
   platelets, anticoagulant therapy. In favor of the latter is unifying
   diagnosis and co-occurrence with renal disease and rash. See discussion
   above
   #. Acute on Chronic Renal Failure
   Cr 1.5 on presentation; up to 3.4, now 2.1 s/p CVVH. DDx includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below).  Now unclear if this is truly manifestation of systemic
   vasculitis or drug reaction. White cells and eosinophils in urine
   consistent with either, although more classic of AIN.
   - f/u renal recs, discuss thoughts re: renal manifestation as above.
   - Renally dose/CVVH dose meds.
   - Management as above, including IV Solu-medrol.
   - Possible renal biopsy tomorrow given that we are now holding
   anticoagulants
   # Leukoclastic Dermatitis
   Thought due to Nafcillin or allopurinol. Improving overall. See
   discussion above for relationship to unifying diagnosis.
   - Steroids as above.
   #. Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommend
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.  Now on Cefazolin since [**1-22**]
   instead of Vanc as better for MSSA with increased dosing [**1-25**].
   - Continue to repeat blood cultures.
   - Based on ID input will cover this and possible HAP with vancomycin
   and cefepime.
   # Atrial Fibrillation/Complete Heart Block
   History this admission of CHB (as well as torsades, thought due to
   FQs), now s/p screw-in pacemaker that is presently ventricularly
   pacing.
   - Hold heparin as above.
   - EP following - plan for 2 months of this pacer before likely
   permanent pacer.
   # Anemia
   Now with pulmonary hemorrhage likely. If diffuse vasculitis or actually
   secondary to primary coagulopathy then need to maintain suspicion for
   other sites of blood loss, including GIT
   - Recheck Hct Q8-Q12.
   - Guaiac stool
   - Consented for blood products
   - Maintain access and active type and screen
   - H2 blocker given some concern that PPI could be causing AIN.
   # CAD
   S/p CABG and with DES x3 in one graft. Given coagulopathy, is off
   anticoagulants. [**Month (only) 60**] be some concern for increased thrombosis risk in
   coming days, but have not choice given severity of presentation. We
   will need to revisit this when diagnosis is cleared and natural history
   of this presentation clearer.
   - Continue statin.
   - Hold ASA for now, knowing high risk with DES.  Minimize time off ASA.
   - Holding ACE in the setting of renal failure.
   - Holding BB for now.
   - No heparin for now
   #. s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF).
   - As above, holding heparin.
   - CT surgery consult if clinical condition worsens and concerning for
   abscess.
   - Consider TEE when stabilized and acute issues under control
 patient
   is actually receiving appropriate treatment now anyway.
   #. Hypertension.
   - Holding anti-HTNs in setting of bleeding as above.
   # FEN: No IVF, replete electrolytes, TF recs.
   # Prophylaxis: boots, H2R blocker.
   # Access: PICC, Temporary HD line
   # Communication: Communication: wife: [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**]
   (daughter and nurse) [**Telephone/Fax (1) 11366**] - need to verify who is HCP.
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube Feeds
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  H2R Blocker
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2128-01-30 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Endocarditis, [**Last Name (un) **], DAH
   24 Hour Events:
   - Called lab processing anti GBM and verbally reported to be negative.
   - Serial hematocrit s/p procedure: stable
   - Patient s/p renal biopsy; results do not show RPGN or significant
   inflammation consistent with vasculitis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2128-1-27**] 10:00 AM
   Vancomycin - [**2128-1-29**] 01:33 PM
   Cefipime - [**2128-1-30**] 12:03 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-29**] 08:25 AM
   Fentanyl - [**2128-1-29**] 11:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-30**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 75 (75 - 76) bpm
   BP: 134/62(88) {100/50(69) - 146/70(95)} mmHg
   RR: 15 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 78.6 kg (admission): 85 kg
   Height: 68 Inch
             Total In:
                                                                  7,709 mL
                                                                  2,170 mL
   PO:
             TF:
                                                                    497 mL
                                                                    228 mL
   IVF:
                                                                  6,409 mL
                                                                  1,942 mL
   Blood products:
                                                                    573 mL
   Total out:
                                                                  9,633 mL
                                                                  3,659 mL
   Urine:
                                                                    473 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,924 mL
                                                                 -1,489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 781 (711 - 781) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 62.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/44/160/26/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General: Intubated, sedated, unresponsive, synchronus with AC this a.m.
   Neck: supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Bilateral expiratory rhonchi and coarse crackles.
   CV: Regular normal S1 + S2, +mechanical click.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pitting LE edema.  Diffuse rash over trunk
   and extremities - macular nonblanching purpuric rash.
   Neuro: Heavily sedated.
   Skin: Petechial rash lower extremity.
   Labs / Radiology
   248 K/uL
   9.2 g/dL
   271 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   44 mg/dL
   99 mEq/L
   138 mEq/L
   28.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2128-1-29**]  12:33 PM
                             [**2128-1-29**]  12:34 PM
                             [**2128-1-29**]  12:46 PM
                             [**2128-1-29**]  04:42 PM
                             [**2128-1-29**]  06:19 PM
                             [**2128-1-29**]  06:29 PM
                             [**2128-1-30**]  12:14 AM
                             [**2128-1-30**]  12:24 AM
                             [**2128-1-30**]  04:20 AM
                             [**2128-1-30**]  04:28 AM
   WBC
   8.5
   Hct
   27.4
   27.9
   28.7
   28.2
   Plt
   263
   248
   Cr
   1.8
   1.7
   1.6
   TCO2
   31
   32
   30
   30
   Glucose
   175
   252
   272
   271
   Other labs: PT / PTT / INR:15.2/26.0/1.3, ALT / AST:[**2-4**], Alk Phos / T
   Bili:104/1.7, Differential-Neuts:92.3 %, Lymph:6.0 %, Mono:1.6 %,
   Eos:0.1 %, Fibrinogen:407 mg/dL, Lactic Acid:0.8 mmol/L, LDH:333 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2128-1-27**] 2:16 am SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2128-1-27**]):
         [**11-8**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
   [**2128-1-27**] 1:34 pm BRONCHOALVEOLAR LAVAGE
                               **FINAL REPORT [**2128-1-29**]**
      GRAM STAIN (Final [**2128-1-27**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2128-1-29**]):    NO GROWTH, <1000 CFU/ml.
   Blood Cultures: [**1-27**] Pending
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   Concern for immune mediated unifying diagnosis, versus coagulopathy and
   AIN with leukoclastic dermatitis. One critical piece of information may
   be whether immune cells cluster at arterioles in skin (vasculitis) or
   around capillaries (AIN and leukoclastic dermatitis proper). This will
   have important implications for treatment. Anti-GBM antibody test will
   be back tomorrow night at earliest per lab/pathologist. Rheumatology
   feel that this likely represents vasculitis and would like to broaden
   treatment to include plasmaphoresis then Cytoxan therapy. This will
   likely depend on whether pathology and Renal also feel that this is a
   vasculitis, not just AIN with associated rash after nafcillin or
   allopurinol. Goodpasture
s unlikely in view of presentation. ANCA is
   negative, but this is the case in about 20% of Wegener
s cases. No
   dysmorphic reds in urine, but this can sometimes be the case. Possible
   other vasculidites, but IgG, IgM and IgA staining in skin were not
   remarkable.
   # Hypoxemic Respiratory Failure and Possible Vasculitis
   Given findings on CXR, CVP, clinical presentation and bronchoscopy,
   likely secondary to diffuse alveolar hemorrhage and fluid overload. ESR
   is elevated, there is a pupruic macular rash and renal failure, all
   concerning for vasculitis, although there are other possibilities. [**Doctor First Name 1205**]
   and ANCA are negative and anti-GBM is pending. If we seek a unifying
   diagnosis, may be that anti-GBM is negative given skin process.
   Variability in antibody responsible may account for this, and general
   approaches and pathology may eventually be most helpful. Renal biopsy
   is possible (see below). Presently conditions of each organ stabilized
   on high dose steroids, also suggestive. Rheumatology raised Cytoxan
   treatment and plasmaphoresis, but we will need to discuss this further
   with Renal and Pathology.
   - Renal Biopsy this AM
   - Maintain intubation for now given lesser chance of hemorrhage without
   cough and management of respiratory parameters.
   - Await anti-GBM
   - Continue to appreciate input of Rheumatology ,Renal , Derm
   - Continue Solu-medrol
   - sp Renal Biopsy, consider Cytoxan and plasmapheresis with d/w Renal
   and Rheumatology
   - Broad spectrum treatment for HAP
 cefepime and vancomycin
   - Hold heparin, ASA
   - Continue to remove fluid with CVVH
   # Coagulopathy: Plan for Kidney Biopsy today. INR 1.4 this AM,
   Platelets NL however may be dysfunctional given ASA /Uremia.
   - DDAVP today
   - FFP during procedure
   - One unit platlets.
   #. Acute on Chronic Renal Failure
   Cr 1.5 on presentation; up to 3.4, now 1.8 s/p CVVH. DDx includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below).  Now unclear if this is truly manifestation of systemic
   vasculitis or drug reaction. White cells and eosinophils in urine
   consistent with either, although more classic of AIN.
   - f/u renal recs, discuss thoughts re: renal manifestation as above.
   - Renally dose/CVVH dose meds.
   - Management as above, including IV Solu-medrol.
   - Possible renal biopsy tomorrow given that we are now holding
   anticoagulants
   # Leukoclastic Dermatitis
   Thought due to Nafcillin or allopurinol. Improving overall. See
   discussion above for relationship to unifying diagnosis.
   - Steroids as above.
   - FU Derm recommendations
   #. Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommend
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.
   - Continue to repeat blood cultures.
   - Based on ID input will cover this and possible HAP with vancomycin
   and cefepime.
   # Atrial Fibrillation/Complete Heart Block
   History this admission of CHB (as well as torsades, thought due to
   FQs), now s/p screw-in pacemaker that is presently ventricularly
   pacing.
   - Hold heparin as above, will restart anticoagulation sp biopsy with
   very low ptt goal.
   - EP following - plan for 2 months of this pacer before likely
   permanent pacer.
   # Anemia
   Now with pulmonary hemorrhage likely. If diffuse vasculitis or actually
   secondary to primary coagulopathy then need to maintain suspicion for
   other sites of blood loss, including GIT
   - Recheck Hct Q8.
   - Guaiac stool
   - Consented for blood products
   - Maintain access and active type and screen
   - H2 blocker given some concern that PPI could be causing AIN.
   # CAD
   S/p CABG and with DES x3 in one graft. Given coagulopathy, is off
   anticoagulants. [**Month (only) 60**] be some concern for increased thrombosis risk in
   coming days, but have not choice given severity of presentation. We
   will need to revisit this when diagnosis is cleared and natural history
   of this presentation clearer.
   - Continue statin.
   - Hold ASA for now, knowing high risk with DES.  Minimize time off ASA.
   - Holding ACE in the setting of renal failure.
   - Holding BB for now.
   - No heparin for now
   #. s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF).
   - As above, holding heparin.
   - CT surgery consult if clinical condition worsens and concerning for
   abscess.
   - Consider TEE when stabilized and acute issues under control
 patient
   is actually receiving appropriate treatment now anyway.
   #. Hypertension.
   - Holding anti-HTNs in setting of bleeding as above.
   # FEN: No IVF, replete electrolytes, TF recs.
   # Prophylaxis: boots, H2R blocker.
   # Access: PICC, Temporary HD line
   # Communication: Communication: wife: [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**]
   (daughter and nurse) [**Telephone/Fax (1) 11366**] - need to verify who is HCP.
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2128-1-30**] 04:26 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2Blocker
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now.

2128-01-31 07:30:00 Physician Resident Progress Note
Chief Complaint: Presented with bacteremia. Tranferred to ICU with
   respiratory failure and hemoptysis.
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   24 Hour Events:
   [**1-29**]
   - Patient s/p renal biopsy; results do not show RPGN or significant
   inflammation consistent with vasculitis (but awaiting final results).
   [**1-30**]
   - Changed to methyprednisone 40mg IV Q12
   - Heparin gtt restarted @ 1000, goal ptt 50-70. Met goal citrate
   stopped.
   - Rheum: Continue Steroids taper.
   - Renal: Restart Heparin, No Ultrasound, Steroids (for AIN in this
   case)
   - Tube Feeds at goal
   - Derm: Do not typically treat with steroids unless systemic, so would
   not need systemic therapy (for leukocytoclastic cutaneous vasculitis)
   - CVVH to remove 250cc hour, up to 400cc hour later, then back to 200
   cc this a.m.
   - HCT: 28.5 ->29.4 ->30.6
   - Continued bloody secretions with suctioning, hematuria with about 300
   mL output of light red wine shaded respiratory secretions from midnight
   until 10 a.m.
   - Still await final pathology results
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-30**] 10:00 AM
   Cefipime - [**2128-1-30**] 11:16 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Fentanyl - 115 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-30**] 09:30 AM
   Midazolam (Versed) - [**2128-1-30**] 12:40 PM
   Fentanyl - [**2128-1-30**] 12:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-31**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 75 (75 - 87) bpm
   BP: 128/57(83) {100/48(67) - 180/76(113)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 73.7 kg (admission): 85 kg
   Height: 68 Inch
    CVP: 15 (6 - 20)mmHg
   Total In:
                                                                  7,933 mL
                                                                  2,810 mL
   PO:
   TF:
                                                                    722 mL
                                                                    223 mL
   IVF:
                                                                  7,151 mL
                                                                  2,407 mL
   Blood products:
   Total out:
                                                                 12,684 mL
                                                                  3,244 mL
   Urine:
                                                                    613 mL
                                                                    176 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,751 mL
                                                                   -434 mL
   LOS fluid balance
 10 L
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 654 (440 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.45/39/111/28/3
   Ve: 9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: Intubated, moderately sedated, but able to interact and follow
   instructions, pressure support of [**5-19**]. Draining thin secretions from
   lung that are moderately blood, like light red wine.
   Neck: supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Bilateral expiratory rhonchi and coarse crackles.
   CV: Regular normal S1 + S2, +mechanical click.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place with hematuria color of red wine.
   Ext: warm, well perfused, 2+ pitting LE edema.  Diffuse rash over trunk
   and extremities - macular nonblanching purpuric rash.
   Neuro: Sedated but rousable and able to interact meaningfully.
   Spontaneously moving all limbs, CNs II-XII intact (within limit of exam
   in intubated patient).
   Skin: Petechial rash lower extremity is improving.
   Labs / Radiology
   292 K/uL
   9.6 g/dL
   203 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   100 mEq/L
   139 mEq/L
   30.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2128-1-30**]  10:24 AM
                             [**2128-1-30**]  10:34 AM
                             [**2128-1-30**]  04:17 PM
                             [**2128-1-30**]  04:21 PM
                             [**2128-1-30**]  04:35 PM
                             [**2128-1-30**]  10:17 PM
                             [**2128-1-30**]  10:28 PM
                             [**2128-1-31**]  04:15 AM
                             [**2128-1-31**]  04:30 AM
                             [**2128-1-31**]  06:21 AM
   WBC
   13.1
   Hct
   28.5
   29.4
   30.6
   30.0
   Plt
   292
   Cr
   1.6
   1.4
   1.2
   TCO2
   30
   29
   29
   32
   28
   Glucose
   [**Telephone/Fax (3) 11389**]03
   Other labs: PT / PTT / INR:14.7/53.3/1.3, ALT / AST:[**2-4**], Alk Phos / T
   Bili:104/1.7, Differential-Neuts:92.3 %, Lymph:6.0 %, Mono:1.6 %,
   Eos:0.1 %, Fibrinogen:407 mg/dL, Lactic Acid:0.8 mmol/L, LDH:333 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Imaging: Asymmetric, severe pulmonary hemorrhage, both lungs,
   previously improved,stable since [**2128-1-29**].
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   # Hypoxemic Respiratory Failure/Ventilation/Intubation
   Maintain intubation and ventilation for now given copious secretions
   this a.m. If production decreases then will consider extubation because
   there is no other reason to maintain vent. Hypoxemic respiratory
   failure has largely resolved - was likely due to pulmonary edema and
   diffuse alveolar hemorrhage. The etiology of hemorrhage is unclear.
   Differential diagnoses include vasculitic and autoimmune processes,
   coagulopathy, or the effect of pulmonary edema in the context of
   coagulopathy. Vaculitis was initially thought most likely, given renal
   failure, rash and pulmonary hemorrhage, but investigations for this
   have been relatively unimpressive: ESR from 15 to 100s now, but
   negative [**Doctor First Name 1205**], ANCA, anti-GBM and unimpressive pathology of skin and
   kidney, although the final read of the latter is pending. Patient
   clinically improving sp diuresis and steroids and HCT stable.
   Vasculitis now unlikely enough to taper steroids to level for treatment
   of AIN along. Nonetheless, ANCA may not be positive in early disease
   and should be repeated in three to four weeks. Possibility of worsened
   MR and pulmonary edema, but unlikely given echo three days ago.
   - FU Renal Biopsy
   - Maintain intubation for now given secretions and lesser chance of
   hemorrhage without cough and management of respiratory parameters.
   - Continue to appreciate input of Rheumatology (want to taper
   steroids), Renal (steroids for AIN only), Dermatology (topical
   steroid).
   - Broad spectrum treatment for HAP, MSSA bacteremia in context of AVR
   cefepime and vancomycin
   - Restart Heparin this AM, no bolus. PTT goal 50-70
   - Hold ASA for now.
   - Continue to remove fluid with CVVH
   - Continue lower dose steroids at this time, 40 mg today and 30 mg
   tomorrow for course of treatment for AIN (check with Renal but in order
   of four weeks)
   #. Hemoptysis
   Discussion above pertains. Likely little further benefit and possible
   harm, so hold bronchoscopy for now.
   #. Acute on Chronic Renal Failure/AIN
   Cr 1.5 on presentation; up to 3.4, now 1.2 on CVVH. DDx includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below), although allopurinal and warfarin can also less
   frequently (and much less likely in this case) produce this effect.
   Renal biopsy without changes consistent with AIN, but already given a
   few days of high-dose steroids. Awaiting final renal pathology results
   and evaluation. Evidence for AIN includes white cell casts, worsened
   renal function and urinary eosinophils.
   - f/u renal recs
   - Steroids to treat AIN, 30 mg daily for course to be determined by
   Renal
 in order of weeks
   - Renally dose/CVVH dose meds.
   - Continue CVVH
   - FU biopsy results
   - Continue to follow urine output
   #. Hematuria
   Likely secondary to biopsy in context of said coagulopathy. Will need
   to monitor given danger period following biopsy is about two weeks.
   Likely too bloody for vasculitic cause.
   - Ask Renal if benefit to spinning when so frankly bloody (surely not
   just due to vasculitis given amount, precipitant (biopsy), and no
   vasculitis on biopsy) (also send UA but may not be helpful for the same
   reason).
   - Follow urine output and bloodiness
   - Consider irrigation if reduction in urine output, suprapubic pain or
   residual volume
   # Leukoclastic Dermatitis
   Is recovering. Thought to be due to Nafcillin or allopurinol
 case
   reports of warfarin also, but much less likely. Improving overall. See
   discussion above for relationship to unifying diagnosis.
   - Steroids as above.
   - FU Derm recommendations
   #. Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommend
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.
   - Continue to repeat blood cultures.
   - Based on ID input will cover this and possible HAP with vancomycin
   and cefepime.
   # Atrial Fibrillation/Complete Heart Block
   History this admission of CHB (as well as torsades, thought due to
   FQs), now s/p screw-in pacemaker that is presently ventricularly
   pacing.
   - Continue heparin as above.
   - EP following - plan for 2 months of this pacer before likely
   permanent pacer.
   # Anemia
   Hematocrit has been stable. Now with pulmonary hemorrhage likely. If
   diffuse vasculitis or actually secondary to primary coagulopathy then
   need to maintain suspicion for other sites of blood loss, including GIT
   - Recheck Hct Q8.
   - Guaiac stool
   - Consented for blood products
   - Maintain access and active type and screen
   - H2 blocker given some concern that PPI could be causing AIN.
   # CAD
   S/p CABG and with DES x3 in one graft. Given coagulopathy, is off
   anticoagulants. [**Month (only) 60**] be some concern for increased thrombosis risk in
   coming days, but have not choice given severity of presentation. We
   will need to revisit this when diagnosis is cleared and natural history
   of this presentation clearer.
   - Continue statin.
   - Hold ASA for now given increased bloody secretions overnight.
   - Holding ACE in the setting of renal failure.
   - Holding BB for now.
   - Heparin as above.
   #. s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF).
   - Heparin as above, transition to coumadin if possible
   - CT surgery consult if clinical condition worsens and concerning for
   abscess.
   - Consider TEE when stabilized and acute issues under control
 patient
   is actually receiving appropriate treatment now anyway.
   #. Hypertension.
   - Holding anti-HTNs in setting of bleeding as above.
   #. Hyperglycemia
   In the context of steroids. When stabilized on 30 mg prednisone daily
   will adjust for tighter control.
   #. Mental Status
   Lightly sedated. Will lighten slightly further today.
   # FEN: No IVF, replete electrolytes, TF recs.
   # Prophylaxis: boots, H2R blocker.
   # Access: PICC, Temporary HD line
   # Communication: Communication: wife: [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**]
   (daughter and nurse) [**Telephone/Fax (1) 11366**] - need to verify who is HCP.
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2128-1-31**] 04:19 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-02-01 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Copious secretions in the morning with blood, like Framboise Lambic,
   then cleared and reduced later over the day
   - Very comfortable on vent and lightly sedated
   - Continue 30 mg prednisone for AIN
   - Continued heparin with goal PTT 50-60 given St. Jude valve (wanted to
   see if bleeding might stop on this low level of anticoagulation given
   risk of valve)
   - No more pathology
   - Rheum. want taper of steroids, and will likely be happy with AIN
   level treatment.
   - CVVH at 380 this a.m. with 4.7 L off yesterday (Renal want us to
   continue to take off until pressure drops or labs contract given
   possible role of pulmonary edema in DAH).
   - Vancomycin trough 20
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-31**] 03:00 PM
   Cefipime - [**2128-2-1**] 12:12 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 40 mcg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 75 (75 - 76) bpm
   BP: 108/46(67) {96/46(66) - 150/64(93)} mmHg
   RR: 23 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 73.7 kg (admission): 85 kg
   Height: 68 Inch
    CVP: 2 (-4 - 313)mmHg
   Total In:
                                                                  6,406 mL
                                                                  1,163 mL
   PO:
   TF:
                                                                    720 mL
                                                                    180 mL
   IVF:
                                                                  5,196 mL
                                                                    953 mL
   Blood products:
   Total out:
                                                                 11,115 mL
                                                                  2,730 mL
   Urine:
                                                                    541 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,709 mL
                                                                 -1,567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (343 - 572) mL
   PS : 0 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.37/35/135/18/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General: Intubated, moderately sedated, but able to interact and follow
   instructions. Draining thin secretions from lung that are moderately
   blood, like light red wine; suctions have cleared in early AM.
   Neck: Supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Bilateral expiratory rhonchi and coarse crackles; improved
   CV: Regular normal S1 + S2, +mechanical click.
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place with improved red appearance.
   Ext: warm, well perfused; Edema much improved and appears dry; Hands
   also look dry; non-blanching rash over lower extremity improving;
   Neuro: Sedated but rousable and able to interact meaningfully.
   Spontaneously moving all limbs, CNs II-XII intact (within limit of exam
   in intubated patient).
   Skin: Petechial rash lower extremity is improving.
   Labs / Radiology
   389 K/uL
   12.6 g/dL
   201 mg/dL
   1.4 mg/dL
   18 mEq/L
   5.1 mEq/L
   35 mg/dL
   104 mEq/L
   136 mEq/L
   40.6 %
   20.9 K/uL
        [image002.jpg]
                             [**2128-1-31**]  04:30 AM
                             [**2128-1-31**]  06:21 AM
                             [**2128-1-31**]  10:29 AM
                             [**2128-1-31**]  10:38 AM
                             [**2128-1-31**]  04:08 PM
                             [**2128-1-31**]  04:21 PM
                             [**2128-1-31**]  09:54 PM
                             [**2128-1-31**]  10:12 PM
                             [**2128-2-1**]  03:45 AM
                             [**2128-2-1**]  04:00 AM
   WBC
   20.9
   Hct
   34.2
   37.7
   40.6
   Plt
   317
   389
   Cr
   1.2
   1.2
   1.4
   TCO2
   32
   28
   29
   24
   24
   21
   Glucose
   162
   253
   170
   201
   Other labs: PT / PTT / INR:14.7/57.4/1.3, ALT / AST:[**2-4**], Alk Phos / T
   Bili:104/1.7, Differential-Neuts:92.3 %, Lymph:6.0 %, Mono:1.6 %,
   Eos:0.1 %, Fibrinogen:407 mg/dL, Lactic Acid:0.8 mmol/L, LDH:333 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   [**2-1**] CXR
 Final read pending; Multifocal opacification stable to
   improved by our read
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; currently hospitalized
   for MSSA endocarditis with complications of ARF and apparent AIN, CHB
   and torsades, and leukocytoclastic dermatitis on skin biopsy, now
   transferred to MICU with respiratory distress, hypoxemia, and
   hemoptysis concerning for DAH.
   # DAH/Hypoxemic Respiratory Failure/Ventilation/Intubation
   Maintain intubation and ventilation for now given continued secretions
   during the day yesterday. Secretions had improved throughout the night,
   and can consider extubation later this pm. Hypoxemic respiratory
   failure has largely resolved - was likely due to pulmonary edema and
   diffuse alveolar hemorrhage. The etiology of hemorrhage is unclear.
   Differential diagnoses include vasculitic and autoimmune processes,
   coagulopathy, or the effect of pulmonary edema in the context of
   coagulopathy. Vaculitis was initially thought most likely, given renal
   failure, rash and pulmonary hemorrhage, but investigations for this
   have been relatively unimpressive: ESR from 15 to 100s now, but
   negative [**Doctor First Name 1205**], ANCA, anti-GBM and unimpressive pathology of skin and
   kidney, although the final read of the latter is pending. Patient
   clinically improving s/p diuresis and steroids and HCT stable.
   Vasculitis now unlikely enough to taper steroids to level for treatment
   of AIN along. Nonetheless, ANCA may not be positive in early disease
   and should be repeated in three to four weeks. Possibility of worsened
   MR and pulmonary edema, but unlikely given echo three days ago.
   - Continue to follow up renal biopsy results from [**1-29**]
   - SBT and consider extubation this PM given improved secretions and
   lesser chance of hemorrhage without cough and management of respiratory
   parameters
   - Continue to appreciate input of Rheumatology (want to taper
   steroids), Renal (steroids for AIN only), Dermatology (topical
   steroid).
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime and Vancomycin
   - Continue Heparin gtt with PTT goal 50-70
   - Hold ASA for now given secretions
   - Plan to discontinue CVVH
 will need to get in touch with Renal
   - Continue Prednisone 30mg to treat AIN (will check with Renal, but
   likely will need for 4 weeks; start date [**2-1**])
   # Volume Status
   Patient appears overall volume depleted on exam findings. This explains
   hemoconcentration seen on lab values.
   - Plan to discontinue CVVH
 will need to get in touch with Renal
   - Trend fever curve
   - Follow up blood cultures
   - Continue to follow
   #. Hemoptysis
   Discussion above pertains. Likely little further benefit and possible
   harm, so hold bronchoscopy for now.
   #. Acute on Chronic Renal Failure/AIN
   Cr 1.5 on presentation; up to 3.4, now 1.2 on CVVH. DDx includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below), although Allopurinol and Warfarin can also less
   frequently (and much less likely in this case) produce this effect.
   Renal biopsy without changes consistent with AIN, but already given a
   few days of high-dose steroids. Awaiting final renal pathology results
   and evaluation. Evidence for AIN includes white cell casts, worsened
   renal function and urinary eosinophils.
   - Continue Prednisone 30mg to treat AIN (will check with Renal, but
   likely will need for 4 weeks; start date [**2-1**])
   - Continue to renally dose medications
   - Plan to discontinue CVVH
 will need to get in touch with Renal
   - Continue to follow up renal biopsy results from [**1-29**]
   - Continue to follow urine output
   - Continue to follow Renal recommendations
   #. Hematuria
   Likely secondary to biopsy in context of said coagulopathy. Will need
   to monitor given danger period following biopsy is about two weeks.
   Likely too bloody for vasculitic cause.
   - Ask Renal if benefit to spinning when so frankly bloody (surely not
   just due to vasculitis given amount, precipitant (biopsy), and no
   vasculitis on biopsy) (also send UA but may not be helpful for the same
   reason).
   - Continue to follow urine output and if hematuria
   - Consider irrigation if reduction in urine output, suprapubic pain or
   residual volume
   # Leukoclastic Dermatitis
   Is recovering. Thought to be due to Nafcillin or Allopurinol
 case
   reports of Warfarin also, but much less likely. Improving overall. See
   discussion above for relationship to unifying diagnosis.
   - Continue steroids as above.
   - Continue to follow Derm recommendations
   #. Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommends
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.
   - Continue to repeat blood cultures
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime and Vancomycin
   - Continue to follow ID recommendations
   # Atrial Fibrillation/Complete Heart Block
   History this admission of CHB (as well as torsades, thought due to
   FQs), now s/p screw-in pacemaker that is presently ventricularly
   pacing.
   - Continue Heparin as above
   - EP following - plan for 2 months of this pacer before likely
   permanent pacer.
   # Anemia
   Hematocrit has been stable. Now with pulmonary hemorrhage likely. If
   diffuse vasculitis or actually secondary to primary coagulopathy then
   need to maintain suspicion for other sites of blood loss, including GI
   tract. Patient is consented for blood products.
   - Continue to check Hematocrit q8
   - Guaiac stool
   - Continue to maintain active T&S
   - Continue Protonix while being aware that PPI may also cause AIN
   # CAD
   S/p CABG and with DES x3 in one graft. Given coagulopathy, is off
   anticoagulants. [**Month (only) 60**] be some concern for increased thrombosis risk in
   coming days, but have not choice given severity of presentation. We
   will need to revisit this when diagnosis is cleared and natural history
   of this presentation clearer.
   - Continue statin
   - Hold ASA for now given bloody secretions
   - Holding ACE in the setting of renal failure
   - Holding BB for now
   - Continue Heparin as above
   #. s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF).
   - Heparin as above, transition to coumadin if possible
   - CT surgery consult if clinical condition worsens and concerning for
   abscess.
   - Consider TEE when stabilized and acute issues under control
 patient
   is actually receiving appropriate treatment now anyway.
   #. Hypertension.
   - Holding anti-HTNs in setting of bleeding as above.
   #. Hyperglycemia
   In the context of steroids. When stabilized on 30 mg prednisone daily
   will adjust for tighter control.
   #. Mental Status
   Lightly sedated. Will lighten slightly further today.
   # FEN: No IVF, replete electrolytes, TF recs.
   # Prophylaxis: boots, H2R blocker; bowel regimen
   # Access: PICC, Temporary HD line
   # Communication: Communication: wife: [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**]
   (daughter and nurse) [**Telephone/Fax (1) 11366**] - need to verify who is HCP.
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-02-02 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2128-2-1**] 11:17 AM
   - Patient extubated succesfully during early morning; did well
   throughout the day
   - We removed the stitch from the derm skin biopsy site.
   - Rheumatology notes clear clinical improvement and recommends
   following up with the final result of the renal biopsy.
   - Renal recommends to continue steroids, to stop CVVH, and to evaluate
   and plan for possible HD on Monday. They also recommend to give
   Vancomycin with HD, to reduce Cefepime to 1gm q24 and to stop
   Sucralfate (aluminum toxicity). We ordered for a trough to follow up in
   AM.
   - Patient with worsening BUN, Cr, HCO3 through evening; plan to manage
   in AM with HD per renal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-2-1**] 12:00 PM
   Vancomycin - [**2128-2-1**] 01:30 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-2-1**] 08:00 AM
   Lorazepam (Ativan) - [**2128-2-1**] 09:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 75 (75 - 78) bpm
   BP: 258/255(257) {90/46(61) - 258/255(257)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 73.7 kg (admission): 85 kg
   Height: 68 Inch
    CVP: 4 (-5 - 8)mmHg
   Total In:
                                                                  2,382 mL
                                                                     71 mL
   PO:
   TF:
                                                                    180 mL
   IVF:
                                                                  2,112 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,944 mL
                                                                     90 mL
   Urine:
                                                                    150 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,562 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: [[**Doctor First Name **]: CPAP/PSV :[**Doctor First Name **]]
   Vt (Spontaneous): 571 (571 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.37/26/78/17/-8
   Ve: 14.1 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General: Extubated; reduced but continued light red secretions
   Neck: Supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Breath sounds similar to yesterday; rales bilateral bases;
   rhonchi worse on right
   CV: Regular, +mechanical click
   Abdomen:  Soft, NT, ND, +BS, no rebound, no guarding
   GU: Foley in place with continued dark appearance
   Ext: Warm, well perfused; Edema much improved and appears dry; Hands
   also look dry;
   Neuro: AOx3, spontaneously moving all extremities
   Skin: Petechial rash lower extremity is improving.
   Labs / Radiology
   363 K/uL
   13.0 g/dL
   152 mg/dL
   3.2 mg/dL
   17 mEq/L
   5.4 mEq/L
   84 mg/dL
   105 mEq/L
   139 mEq/L
   42.3 %
   22.4 K/uL
        [image002.jpg]
                             [**2128-1-31**]  10:12 PM
                             [**2128-2-1**]  03:45 AM
                             [**2128-2-1**]  04:00 AM
                             [**2128-2-1**]  08:16 AM
                             [**2128-2-1**]  12:02 PM
                             [**2128-2-1**]  04:41 PM
                             [**2128-2-1**]  07:50 PM
                             [**2128-2-2**]  12:05 AM
                             [**2128-2-2**]  05:42 AM
                             [**2128-2-2**]  06:08 AM
   WBC
   20.9
   22.4
   Hct
   40.6
   40.8
   42.3
   Plt
   389
   363
   Cr
   1.4
   2.4
   2.7
   3.2
   TCO2
   24
   21
   18
   17
   16
   16
   Glucose
   [**Telephone/Fax (3) 11399**]52
   Other labs: PT / PTT / INR:15.1/47.7/1.3, ALT / AST:[**2-4**], Alk Phos / T
   Bili:104/1.7, Differential-Neuts:92.3 %, Lymph:6.0 %, Mono:1.6 %,
   Eos:0.1 %, Fibrinogen:407 mg/dL, Lactic Acid:0.9 mmol/L, LDH:333 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.7 mg/dL, PO4:4.8 mg/dL
   - CXR appears improved on left, slight prominence of opacity on right
   - No new culture data
   - Renal biopsy results continue to be pending
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; admitted with MSSA
   bacteremia c/b CHB (s/p temp wire) as well as torsades; complicated
   with ARF likely secondary to AIN currently managed with CVVH and likely
   HD starting today, multifactorial DAH currently stable off extubation,
   leukocytoclastic vasculitis on legs currently improving.
   # Acute on Chronic Renal Failure/AIN
   Cr, BUN and bicarbonate all suggestive of progressively worsening renal
   function. DDx includes AIN due to Nafcillin (also identical
   pathophysiology with concomitant rash
 see below), although
   Allopurinol and Warfarin can also less frequently (and much less likely
   in this case) produce this effect. Renal biopsy without changes
   consistent with AIN, but already given a few days of high-dose
   steroids. Awaiting final renal pathology results and evaluation.
   Evidence for AIN includes white cell casts, worsened renal function and
   urinary eosinophils.
   - Obtain urine electrolytes
   - Plan for HD today with Renal
   - Continue to follow Vancomycin trough
   - Continue Prednisone 30mg to treat AIN per Renal recommendations; will
   plan to taper (start date [**2-1**]; 5 days 30mg, 5 days 20mg, 5 days 10mg)
   - Continue to renally dose medications
   - Continue to follow UOP
   - Follow up renal biopsy results from [**1-29**]
   - Continue to follow Renal recommendations; appreciate their input
   # Volume Status
   CVVH discontinued [**2-1**] as patient appeared volume depleted on exam. He
   still had large volume out from CVVH yesterday, likely contributing to
   his continued hemoconcentration seen on lab values.
   - Plan for possible HD today per Renal recommendations
   - Trend fever curve
   - Obtain UA
   - Follow up blood cultures; obtain blood cultures today
   # DAH/Hypoxemic Respiratory Failure/Ventilation/Intubation/Hemoptysis
   Stable s/p extubation. Secretion quantity has improved throughout past
   2 days and seems to be stable off of positive pressure from ventilator.
   Concern for flash pulmonary edema during this period
 can plan to
   restart CVVH or emergent HD pending renal recommendations today should
   such an event occur. Hypoxemic respiratory failure has largely resolved
   - was likely due to pulmonary edema and diffuse alveolar hemorrhage.
   The etiology of hemorrhage is unclear and likely multifactorial.
   Differential diagnoses include vasculitic and autoimmune processes,
   coagulopathy, or the effect of pulmonary edema in the context of
   coagulopathy. Vaculitis was initially thought most likely, given renal
   failure, rash and pulmonary hemorrhage, but investigations for this
   have been relatively unimpressive: ESR from 15 to 100s now, but
   negative [**Doctor First Name 1205**], ANCA, anti-GBM and unimpressive pathology of skin and
   kidney, although the final read of the latter is pending. Patient
   clinically improving s/p diuresis and steroids and HCT stable.
   Vasculitis now unlikely enough to taper steroids to level for treatment
   of AIN along. Nonetheless, ANCA may not be positive in early disease
   and should be repeated in three to four weeks. Possibility of worsened
   MR and pulmonary edema, but unlikely given echo three days ago.
   - Obtain CXR this AM
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime (start date [**1-27**], 8 days total) and Vancomycin (start
   date [**1-7**], 8 weeks total per ID recommendations)
   - Continue to follow secretions on Heparin
   - Consider emergent CVVH /HD in the event of flash pulmonary edema
   - Continue to follow Rheumatology, Renal, Dermatology, ID
   recommendations; appreciate their input
   # Leukoclastic Dermatitis
   Overall improving. Thought to be due to Nafcillin or Allopurinol
 case
   reports of Warfarin also, but much less likely. See discussion above
   for relationship to unifying diagnosis.
   - Continue steroids as above
   - Continue to follow Dermatology recommendations; appreciate their
   input
   # Bacteremia
   High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major, 3 minor)
   for endocarditis. TTE did not reveal vegetations, but sensitivity
   likely low. Nonetheless, given AVR and concern, ID recommends
   antibiotics for a full 8 week course. Switched from Nafcillin/Rifampin
   to Vancomycin [**1-17**] due to question of AIN.
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime (start date [**1-27**], 8 days total) and Vancomycin (start
   date [**1-7**], 8 weeks total per ID recommendations)
   - Follow up blood cultures
   - Continue to follow ID recommendations; appreciate their input
   # Hematuria
   Likely secondary to biopsy in context of coagulopathy. Will need to
   monitor given danger period following biopsy is about two weeks. Likely
   too bloody for vasculitic etiologic. Appears overall to be improving
   per nursing. [**Month (only) 60**] consider asking Renal if there is a benefit to
   spinning urine when it is so frankly bloody. Also, may consider
   irrigation for blood clots if there is a reduction in urine output,
   suprapubic pain or residual volume.
   - Continue to follow UOP/hematuria on Heparin
   # Anemia
   Hematocrit has been stable to high likely secondary to
   hemoconcentration. Patient is consented for blood products.
   - Continue to check Hematocrit [**Hospital1 **]
   - Guaiac stool
   - Continue to maintain active T&S (current outdates [**2-2**])
   # Atrial Fibrillation/Complete Heart Block
   CHB this admission (as well as torsades, thought due to FQs), now s/p
   screw-in pacemaker that is presently ventricularly pacing.  EP is
   following and current plan is for 2 months of this temporary pacer
   prior to placing permanent pacer.
   - Continue Heparin gtt PTT goal 50-60
   - Continue to follow EP recommendations; appreciate their input;
   # s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF). Can consider CT
   surgery consult if clinical condition worsens and concerning for
   abscess. Consider TEE when patient further stabilized and acute issues
   under control
 patient is receiving appropriate treatment now anyway.
   - Continue Heparin gtt PTT goal 50-60
   - Transition to coumadin when possible
   # CAD
   s/p CABG with DES x3 in one graft. Have restarted anticoagulation given
   the concern for increased thrombosis risk.
   - Continue Heparin as above
   - Consider restarting ASA given stable Hct; likely tomorrow, [**2-3**]
   - Continue statin
   - Holding ACE in the setting of renal failure
   - Holding BB in the setting of bleed as above
   # Hypertension.
   - Holding antihypertensives in the setting of bleed as above
   # Hyperglycemia
   - ISS in the context of steroids
   # FEN: No IVF, replete electrolytes prn, speech and swallow evaluation;
   nectar thick liquids
   # Prophylaxis: Pneumoboots/Heparin, H2 blocker, bowel regimen
   # Access: PICC, Temporary HD line
   # Communication: Wife [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**] (daughter and nurse) [**Telephone/Fax (1) 11400**]; need to verify who is HCP
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-02-03 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Some chest pain during dialysis (deep, sharp, [**2128-4-19**], intermittent
   for about 30 minutes total, non-radiating). Stopped dialysis one hour
   early, on O2 BB heparin already, drew enzymes immediately after
   dialysis and clear - will cycle. EKG with diffuse TWI. Did not drop
   pressure during this period, other vitals stable. Resolved when
   dialysis stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-2-1**] 12:00 PM
   Vancomycin - [**2128-2-2**] 01:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-2-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 75 (75 - 78) bpm
   BP: 129/75(86) {105/51(61) - 132/81(90)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 69.1 kg (admission): 85 kg
   Height: 68 Inch
    CVP: 5 (-7 - 9)mmHg
   Total In:
                                                                    918 mL
                                                                    162 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    678 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    160 mL
   Urine:
                                                                    300 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    618 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 96%
   ABG: 7.47/32/76.[**Numeric Identifier 128**]/21/0
   Physical Examination
   General: Extubated; reduced but continued dark red secretions
   Neck: Supple, JVD elevation difficult to appreciate given respiratory
   distress and upright positioning and now dialysis line.
   Lungs: Breath sounds similar to yesterday; rales bilateral bases;
   rhonchi worse on right
   CV: Regular, +mechanical click
   Abdomen:  Soft, NT, ND, +BS, no rebound, no guarding
   GU: Foley in place with continued dark appearance
   Ext: Warm, well perfused; Edema much improved and appears dry; Hands
   also look dry;
   Neuro: AOx3, spontaneously moving all extremities
   Skin: Petechial rash lower extremity is improving.
   Labs / Radiology
   290 K/uL
   11.6 g/dL
   109 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   82 mg/dL
   103 mEq/L
   138 mEq/L
   35.4 %
   20.6 K/uL
        [image002.jpg]
                             [**2128-2-2**]  12:05 AM
                             [**2128-2-2**]  05:42 AM
                             [**2128-2-2**]  06:08 AM
                             [**2128-2-2**]  12:43 PM
                             [**2128-2-2**]  03:13 PM
                             [**2128-2-2**]  05:59 PM
                             [**2128-2-2**]  10:50 PM
                             [**2128-2-3**]  12:43 AM
                             [**2128-2-3**]  04:10 AM
                             [**2128-2-3**]  04:34 AM
   WBC
   22.4
   22.8
   20.6
   Hct
   40.8
   42.3
   38.1
   35.4
   Plt
   363
   304
   290
   Cr
   2.7
   3.2
   1.4
   2.5
   3.0
   TropT
   <0.01
   <0.01
   TCO2
   16
   23
   23
   23
   24
   Glucose
   132
   152
   188
   205
   109
   Other labs: PT / PTT / INR:15.4/65.0/1.4, CK / CKMB /
   Troponin-T:17//<0.01, ALT / AST:[**2-4**], Alk Phos / T Bili:104/1.7,
   Differential-Neuts:92.6 %, Lymph:3.5 %, Mono:2.5 %, Eos:1.2 %,
   Fibrinogen:407 mg/dL, Lactic Acid:1.3 mmol/L, LDH:333 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   [**2-3**] CXR
 Final read pending; appears stable to improved
   [**2-2**] Urine, culture
 Pending
   [**1-29**] Renal biopsy
 Pending
   Assessment and Plan
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; admitted with MSSA
   bacteremia c/b CHB (s/p temp wire) as well as torsades; complicated
   with ARF likely secondary to AIN currently managed with CVVH and likely
   HD starting today, multifactorial DAH currently stable off extubation,
   leukocytoclastic vasculitis on legs currently improving.
   # Acute on Chronic Renal Failure/AIN
   Stable. s/p HD yesterday. Cr, BUN and bicarbonate initially improving.
   FeNa 0.2 likely pre-renal vs acute GN etiologies. DDx also includes AIN
   due to Nafcillin (also identical pathophysiology with concomitant rash
 see below), although Allopurinol and Warfarin can also less
   frequently (and much less likely in this case) produce this effect.
   Renal biopsy without changes consistent with AIN, but already given a
   few days of high-dose steroids. Awaiting final renal pathology results
   and evaluation. Evidence for AIN includes white cell casts, worsened
   renal function and urinary eosinophils.
   - Plan for HD [**2-4**] with Renal
   - Continue to follow Vancomycin trough
   - Continue Prednisone 30mg to treat AIN per Renal recommendations; will
   plan to taper (start date [**2-1**]; 5 days 30mg, 5 days 20mg, 5 days 10mg);
   Renal recommends changing to 20mg on [**2-4**]
   - Continue to renally dose medications
   - Continue to follow UOP
   - Follow up renal biopsy results from [**1-29**]
   - Continue to follow Renal recommendations; appreciate their input
   # Volume Status
   Stable/improving. CVVH discontinued [**2-1**] as patient appeared volume
   depleted on exam. His volume status seems to have stabilized;
   hemoconcentration seems improved.
   - Plan for HD [**2-4**] with Renal
   - Trend fever curve
   - Follow up urine/blood cultures
   # DAH/Hypoxemic Respiratory Failure/Ventilation/Intubation/Hemoptysis
   Stable s/p extubation. Secretion quantity has improved throughout past
   2 days and seems to be stable off of positive pressure from ventilator.
   Concern for flash pulmonary edema during this period
 can plan on
   emergent HD pending renal recommendations today should such an event
   occur. Hypoxemic respiratory failure has largely resolved - was likely
   due to pulmonary edema and diffuse alveolar hemorrhage. The etiology of
   hemorrhage is unclear and likely multifactorial. Differential diagnoses
   include vasculitic and autoimmune processes, coagulopathy, or the
   effect of pulmonary edema in the context of coagulopathy. Vaculitis was
   initially thought most likely, given renal failure, rash and pulmonary
   hemorrhage, but investigations for this have been relatively
   unimpressive: ESR from 15 to 100s now, but negative [**Doctor First Name 1205**], ANCA, anti-GBM
   and unimpressive pathology of skin and kidney, although the final read
   of the latter is pending. Patient clinically improving s/p diuresis and
   steroids and HCT stable. Vasculitis now unlikely enough to taper
   steroids to level for treatment of AIN along. Nonetheless, ANCA may not
   be positive in early disease and should be repeated in three to four
   weeks. Possibility of worsened MR and pulmonary edema, but unlikely
   given echo three days ago.
   - Follow CXR
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime (start date [**1-27**], 8 days total) and Vancomycin (start
   date [**1-7**], 8 weeks total per ID recommendations)
   - Continue to follow secretions on Heparin
   - Consider emergent HD in the event of flash pulmonary edema
   - Continue to follow Rheumatology, Renal, Dermatology, ID
   recommendations; appreciate their input
   # Leukocytoclastic Dermatitis
   Overall improving. Thought to be due to Nafcillin or Allopurinol
 case
   reports of Warfarin also, but much less likely. See discussion above
   for relationship to unifying diagnosis.
   - Continue steroids as above
   - Continue to follow Dermatology recommendations; appreciate their
   input
   # Bacteremia
   Stable. High-grade MSSA bacteremia and fulfils Duke Criteria (1 Major,
   3 minor) for endocarditis. TTE did not reveal vegetations, but
   sensitivity likely low. Nonetheless, given AVR and concern, ID
   recommends antibiotics for a full 8 week course. Switched from
   Nafcillin/Rifampin to Vancomycin [**1-17**] due to question of AIN.
   - Follow up blood cultures
   - Continue broad spectrum treatment for HAP, MSSA bacteremia in context
   of AVR
 Cefepime (start date [**1-27**], 8 days total) and Vancomycin (start
   date [**1-7**], 8 weeks total per ID recommendations)
   - Continue to follow ID recommendations; appreciate their input
   # Hematuria
   Stable/improving. Likely secondary to biopsy in context of
   coagulopathy. Will need to monitor given danger period following biopsy
   is about two weeks. Likely too bloody for vasculitic etiologic. Appears
   overall to be improving per nursing. [**Month (only) 60**] consider asking Renal if there
   is a benefit to spinning urine when it is so frankly bloody. Also, may
   consider irrigation for blood clots if there is a reduction in urine
   output, suprapubic pain or residual volume.
   - Continue to follow UOP/hematuria on Heparin
   # Anemia
   Hematocrit has been stable to high likely secondary to
   hemoconcentration. Patient is consented for blood products.
   - Continue to check Hematocrit [**Hospital1 **]
   - Guaiac stool
   - Continue to maintain active T&S (current outdates [**2-2**])
   # Atrial Fibrillation/Complete Heart Block
   CHB this admission (as well as torsades, thought due to FQs), now s/p
   screw-in pacemaker that is presently ventricularly pacing.  EP is
   following and current plan is for 2 months of this temporary pacer
   prior to placing permanent pacer.
   - Continue Heparin gtt PTT goal 50-60; transition to coumadin when more
   certain hemoptysis/hematuria resolving
   - Continue to follow EP recommendations; appreciate their input;
   # s/p AVR (St. [**Male First Name (un) 6198**]).  Endocarditis as above. Goal for INR [**2-18**], but
   likely higher in this patient given other risks (AF). Can consider CT
   surgery consult if clinical condition worsens and concerning for
   abscess. Consider TEE when patient further stabilized and acute issues
   under control
 patient is receiving appropriate treatment now anyway.
   - Continue Heparin gtt PTT goal 50-60; transition to coumadin when more
   certain hemoptysis/hematuria resolving
   # CAD
   s/p CABG with DES x3 in one graft. Have restarted anticoagulation given
   the concern for increased thrombosis risk.
   - Continue Heparin as above
   - Consider restarting ASA in 48 hours on [**2-5**]
   - Continue statin
   - Holding ACE in the setting of renal failure
   - Holding BB in the setting of bleed as above
   # Hypertension.
   - Holding antihypertensives in the setting of bleed as above
   # Hyperglycemia
   - ISS in the context of steroids
   # FEN: No IVF, replete electrolytes prn, thin liquids at this time;
   continue to follow speech/swallow recommendations
   # Prophylaxis: Pneumoboots/Heparin, H2 blocker, bowel regimen
   # Access: PICC, Temporary HD line; will continue to discuss need for
   permanent dialysis line
   # Communication: Wife [**Telephone/Fax (1) 11266**]; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11365**] (daughter and nurse) [**Telephone/Fax (1) 11400**]; need to verify who is HCP
   # Code:  Full (discussed with patient and family)
   # Disposition: ICU pending clinical improvement; likely today to [**Hospital1 2259**]
   with telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Arterial Line - [**2128-1-27**] 12:30 PM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-02-03 11:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels well this Am, no complaints
   24 Hour Events:
   Chest pain with HD yesterday - resolved spontaneously
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2128-2-1**] 12:00 PM
   Vancomycin - [**2128-2-2**] 01:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   per icu resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-2-3**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 75 (75 - 80) bpm
   BP: 114/64(76) {105/51(61) - 130/85(96)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 69.1 kg (admission): 85 kg
   Height: 68 Inch
   CVP: 5 (-7 - 9)mmHg
   Total In:
                                                                    915 mL
                                                                    233 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    675 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    205 mL
   Urine:
                                                                    300 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    615 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.47/32/76.[**Numeric Identifier 128**]/21/0
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud), mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   11.6 g/dL
   290 K/uL
   109 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   82 mg/dL
   103 mEq/L
   138 mEq/L
   35.4 %
   20.6 K/uL
        [image002.jpg]
                             [**2128-2-2**]  12:05 AM
                             [**2128-2-2**]  05:42 AM
                             [**2128-2-2**]  06:08 AM
                             [**2128-2-2**]  12:43 PM
                             [**2128-2-2**]  03:13 PM
                             [**2128-2-2**]  05:59 PM
                             [**2128-2-2**]  10:50 PM
                             [**2128-2-3**]  12:43 AM
                             [**2128-2-3**]  04:10 AM
                             [**2128-2-3**]  04:34 AM
   WBC
   22.4
   22.8
   20.6
   Hct
   40.8
   42.3
   38.1
   35.4
   Plt
   363
   304
   290
   Cr
   2.7
   3.2
   1.4
   2.5
   3.0
   TropT
   <0.01
   <0.01
   TCO2
   16
   23
   23
   23
   24
   Glucose
   132
   152
   188
   205
   109
   Other labs: PT / PTT / INR:15.4/65.0/1.4, CK / CKMB /
   Troponin-T:17//<0.01, ALT / AST:[**2-4**], Alk Phos / T Bili:104/1.7,
   Differential-Neuts:92.6 %, Lymph:3.5 %, Mono:2.5 %, Eos:1.2 %,
   Fibrinogen:407 mg/dL, Lactic Acid:1.3 mmol/L, LDH:333 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ANEMIA, OTHER
 BACTEREMIA
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 ENDOCARDITIS, BACTERIAL
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   76M with CAD s/p CABG, s/p mechanical AVR, Afib; admitted with MSSA
   bacteremia c/b CHB (s/p temp wire) as well as torsades; complicated
   with ARF likely secondary to AIN currently managed with CVVH and likely
   HD starting today, multifactorial DAH currently stable off extubation,
   leukocytoclastic vasculitis on legs currently improving.
   1. Respiratory Failure: Extubated and doing well.  Cont cefepime
   2. Renal failure: HD per renal.  Cont steroid taper.
   3. DAH: Steroids as above --> CXR improving
   4. Complete Heart Block/Afib: Cont heparin gtt. Temp wire in place.
   5. MSSA bacteremia: Cont vanco
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-1-27**] 08:05 AM
   Dialysis Catheter - [**2128-1-27**] 01:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: